US05547967
4.9 g of 3-(3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-amino]-propyloxy)-2-benzyl-5-(3,4-dimethoxyphenyl)-pyrazole were dissolved in glacial acetic acid, 0.5 g of palladium on charcoal was added, and the reaction mixture was hydrogenated at 80 bar hydrogen pressure and at 80° C. for 24 hours. After removal of the catalyst by filtration, the reaction mixture was concentrated by evaporation and rendered alkaline (pH=10) with sodium hydroxide solution, and the product was extracted with ethyl acetate. The organic phase was separated, concentrated and purified by flash chromatography over silica gel. 1.1 g of 3-{3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-amino]-propyloxy}-5-(3,4-dimethoxyphenyl)-pyrazole were obtained. The IR spectrum of the base (as film) showed bands at 1511 cm-1, 1465 cm-1, 1262 cm-1.

reactant | 3-(3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-amino]-propyloxy)-2-benzyl-5-(3,4-dimethoxyphenyl)-pyrazole | 4.9 g | COC=1C=C(C=CC1OC)CCNCCCOC=1N(N=C(C1)C1=CC(=C(C=C1)OC)OC)CC1=CC=CC=C1 | C31H37N3O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3-{3-[N-(2-(3,4-dimethoxyphenyl)-ethyl)-amino]-propyloxy}-5-(3,4-dimethoxyphenyl)-pyrazole | 1.1 g | COC=1C=C(C=CC1OC)CCNCCCOC1=NNC(=C1)C1=CC(=C(C=C1)OC)OC | C24H31N3O5
